US07402581B2
tert-Butyl [(2S)-2-(3,4-dichlorophenyl)-4-(3-thiomorpholin-4-ylazetidin-1-yl)butyl]methylcarbamate (260 mg, 0.53 mmol) was dissolved in ether (15 mL) and stirred during the dropwise addition of HCl (15 mL of 4M dioxane solution). The mixture was stirred at room temperature for 1 h and then the solvent was removed by evaporation. There was obtained 270 mg (100%) of [(2S)-2-(3,4-dichlorophenyl)-4-(3-thiomorpholin-4-ylazetidin-1-yl)butyl]methylamine dihydrochloride as a white solid. 1H NMR (300 MHz, CD3OD): 1.9-2.2 (b, 2H), 2.7 (s, 3H), 3.0-4.8 (cm, 19H), 7.4 (d, 1H), 7.6 (m, 2H); LCMS: m/z 388 (M+1)+.

reactant | tert-Butyl [(2S)-2-(3,4-dichlorophenyl)-4-(3-thiomorpholin-4-ylazetidin-1-yl)butyl]methylcarbamate | 0.53 mmol, 260 mg | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(OC(C)(C)C)=O)C)CCN1CC(C1)N1CCSCC1 | C23H35Cl2N3O2S
reactant | HCl | 4M, 15 mL | Cl | ClH
solvent | ether | 15 mL | CCOCC | C4H10O
product | [(2S)-2-(3,4-dichlorophenyl)-4-(3-thiomorpholin-4-ylazetidin-1-yl)butyl]methylamine dihydrochloride | 270 mg, 100% | Cl.Cl.ClC=1C=C(C=CC1Cl)[C@@H](CNC)CCN1CC(C1)N1CCSCC1 | InChI=1S/C18H27Cl2N3S.2ClH/c1-21-11-15(14-2-3-17(19)18(20)10-14)4-5-22-12-16(13-22)23-6-8-24-9-7-23;;/h2-3,10,15-16,21H,4-9,11-13H2,1H3;2*1H/t15-;;/m1../s1
